US09079902B2
A microwave vial was charged with 3-(3-bromo-5-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.050 g, 0.075 mmol), pyridin-4-ylboronic acid (0.018 g, 0.150 mmol), potassium phosphate (0.056 g, 0.262 mmol), and Pd(AmPhos)2Cl2 (5.30 mg, 7.49 μmol). The vial was flushed with Ar, then dioxane (0.375 ml) and water (0.125 ml) were added in sequence. The vial was sealed and microwaved at 100° C. for 30 minutes. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were washed with brine, dried with sodium sulfate, filtered and concentrated. The material was purified via column chromatography (silica gel, gradient elution 0 to 100% EtOAc/Heptane) to afford N-(2,4-dimethoxybenzyl)-1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide as a yellow solid. m/z (ESI) 666.2 (M+H)+.

reactant | 3-(3-bromo-5-(trifluoromethyl)phenyl)-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.075 mmol, 0.050 g | BrC=1C=C(C=C(C1)C(F)(F)F)C1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C27H22BrF3N4O4S2
reactant | pyridin-4-ylboronic acid | 0.150 mmol, 0.018 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium phosphate | 0.262 mmol, 0.056 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | N-(2,4-dimethoxybenzyl)-1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)C2=CC(=CC(=C2)C(F)(F)F)C2=CC=NC=C2)C2=NC=NS2)C=CC(=C1)OC | C32H26F3N5O4S2
